US05093328
To a solution of (2R,4R)-1-benzyloxycarbonyl-2-cyanomethyl-4-t-butyldimethylsilyloxypyrrolidine (88 g) in methanol (450 ml), 6N hydrochloric acid (45 ml) was added, and the resultant mixture was stirred at room temperature for 1.5 hours. The reaction mixture was diluted with ethyl acetate, washed with aqueous sodium chloride solution and dried over magnesium sulfate. After removal of the solvent, the residue was purified by silica gel column chromatography to give (2R,4R)-1-benzyloxycarbonyl-2-cyanomethyl-4-hydroxypyrrolidine.

reactant | (2R,4R)-1-benzyloxycarbonyl-2-cyanomethyl-4-t-butyldimethylsilyloxypyrrolidine | 88 g | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)CC#N | C20H30N2O3Si
solvent | methanol | 450 ml | CO | CH4O
solvent | hydrochloric acid | 6N, 45 ml | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2R,4R)-1-benzyloxycarbonyl-2-cyanomethyl-4-hydroxypyrrolidine | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@H](C1)O)CC#N | C14H16N2O3
